US06809108B1
(2R)-N-{((3R)-1-propyl-3-piperidyl)methyl}-1-{(2S)-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonylpyrrolidine-2-carboxamide
The title compound was prepared by a method similar to Step 3 of Example 17, using (2R)-N-((3S)-3-piperidylmethyl)-1-{(2S)-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonylpyrrolidine-2-carboxamide and propionaldehyde. The product was obtained as a white solid.

reactant | (2R)-N-((3S)-3-piperidylmethyl)-1-{(2S)-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonylpyrrolidine-2-carboxamide | N1C[C@H](CCC1)CNC(=O)[C@@H]1N(CCC1)C(=O)[C@H]1N(CCC1)C(CC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C37H44N4O3
reactant | propionaldehyde | C(CC)=O | C3H6O
product | (2R)-N-{((3R)-1-propyl-3-piperidyl)methyl}-1-{(2S)-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonylpyrrolidine-2-carboxamide | C(CC)N1C[C@H](CCC1)CNC(=O)[C@@H]1N(CCC1)C(=O)[C@H]1N(CCC1)C(CC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C40H50N4O3
